US07811642B2
11.0 g of 4-nitrophenyl 4-nitrobenzoate (38.2 mM) were dissolved in 350 ml of ethyl acetate and 1.0 g of palladium on charcoal (10%) was added. The resulting mixture was hydrogenated at atmospheric pressure until the theoretical amount of hydrogen was consumed. The mixture was then filtered, the cake was washed with ethyl acetate and the filtrate was evaporated to dryness to give 8.71 g (38.2 mM, 99%) of 4-aminophenyl 4-aminobenzoate as slightly beige crystals.

reactant | 4-nitrophenyl 4-nitrobenzoate | 38.2 mM, 11.0 g | [N+](=O)([O-])C1=CC=C(C(=O)OC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C13H8N2O6
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 350 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 1.0 g | [Pd] | Pd
product | 4-aminophenyl 4-aminobenzoate | 38.2 mM, 8.71 g, 99% | NC1=CC=C(C(=O)OC2=CC=C(C=C2)N)C=C1 | C13H12N2O2
